US07947851B2
Step b) Formation of 6-[hexyl(4-{[4-(trifluoromethyl)phenyl]ethynyl}benzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one
The title compound was prepared following procedure described in Example 32, step c) from 2,2-dimethyl-6-[(4-{[4-(trifluoromethyl)phenyl]ethynyl}benzyl)amino]-4H-1,3-benzodioxin-4-one (427 mg; 0.95 mmol) and hexanal (Aldrich, 170 μl; 1.42 mmol) to give 560 mg of crude. Purification by flash chromatography on silica gel (EtOAc/c-Hexe 5:90 then 10:90) gave 395 mg (78%) of the title compound as a brown powder. HPLC, Rt: 6.21 min (purity: 68.5%). 1H NMR (CDCl3) δ: 7.59 (brs, 4H), 7.47 (m, 2H), 7.30.(m 3H), 6.76-6.83 (m, 2H), 4.50 (s, 2H), 3.38 (m, 2H), 1.68 (s, 6H), 1.61 (m, 2H), 1.28 (m, 6H), 0.86 (m, 3H).

reactant | 2,2-dimethyl-6-[(4-{[4-(trifluoromethyl)phenyl]ethynyl}benzyl)amino]-4H-1,3-benzodioxin-4-one | 0.95 mmol, 427 mg | CC1(OC(C2=C(O1)C=CC(=C2)NCC2=CC=C(C=C2)C#CC2=CC=C(C=C2)C(F)(F)F)=O)C | C26H20F3NO3
reactant | hexanal | 1.42 mmol, 170 μl | C(CCCCC)=O | C6H12O
product | 6-[hexyl(4-{[4-(trifluoromethyl)phenyl]ethynyl}benzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 395 mg, 78% | C(CCCCC)N(C1=CC2=C(OC(OC2=O)(C)C)C=C1)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(F)(F)F | C32H32F3NO3
